US05645610
644 mg (2.7 mmol) of 2-(2'-hydroxyethyl)amino-5-ethoxy-4-nitrotoluene were hydrogenated with a catalytic amount of palladium/active carbon (5% Pd) in 50 ml methanol. After filtering off the catalyst, the solvent was completely distilled away. 428 mg (76% of theoretical yield) of 4-amino-2-(2'-hydroxyethyl)amino-5-ethoxytoluene were obtained in pure form by thin layer chromatography. The obtained product crystals melted at 128° C.

reactant | 2-(2'-hydroxyethyl)amino-5-ethoxy-4-nitrotoluene | 2.7 mmol, 644 mg | OCCNC1=C(C=C(C(=C1)[N+](=O)[O-])OCC)C | C11H16N2O4
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | 4-amino-2-(2'-hydroxyethyl)amino-5-ethoxytoluene | 428 mg, 76% | NC1=CC(=C(C=C1OCC)C)NCCO | C11H18N2O2
